US08304419B2
Step D: 5-(acetylamino)-1H-indole-2-carboxylic acid
Lithium hydroxide (0.028 g, 1.184 mmol) was added to a solution of 1-(1,1-dimethylethyl)2-ethyl 5-(acetylamino)-1H-indole-1,2-dicarboxylate (0.041 g, 0.118 mmol) in THF:MeOH:water/3:1:1. The reaction mixture was heated at 50° C. for 1 h. The solvent was evaporated. The residue was dissolved in water, acidified with 6N aqueous HCl and extracted with dichloromethane. A solid formed in the aqueous layer which was collected by filtration and dried to give the title compound (0.011 g, 43%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.85 (s, 1H), 11.63 (s, 1H), 9.79 (s, 1H), 7.97 (s, 1H), 7.22-7.38 (m, 2H), 7.01 (s, 1H), 2.01 (s, 3H). MS: m/z 219 (M+1).

reactant | Lithium hydroxide | 1.184 mmol, 0.028 g | [OH-].[Li+]
reactant | 1-(1,1-dimethylethyl)2-ethyl 5-(acetylamino)-1H-indole-1,2-dicarboxylate | 0.118 mmol, 0.041 g | C(C)(=O)NC=1C=C2C=C(N(C2=CC1)C(=O)OCCC(C)(C)C)C(=O)[O-]
reactant | MeOH | CO | CH4O
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 5-(acetylamino)-1H-indole-2-carboxylic acid | 0.011 g, 43% | C(C)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O | C11H10N2O3
